US03953460
Reaction of 3-[(2-aminoethyl)thiomethyl]isoxazole (from the dihydrobromide (3.8 g)) with 1-nitro-2,2-bis-methylthioethylene (2.0 g) by the procedure of Example 4(i) and treatment of the resultant 1-nitro-2-methylthio-2-[2-(3-isoxazolylmethylthio)ethylamino]ethylene with methylamine according to the procedure of Example 3(ii) gives 1-nitro-2-methylamino-2-[2-(3-isoxazolylmethylthio)ethylamino]ethylene.

reactant | 3-[(2-aminoethyl)thiomethyl]isoxazole | NCCSCC1=NOC=C1 | C6H10N2OS
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-[2-(3-isoxazolylmethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=NOC=C1)SC | C9H13N3O3S2
reactant | methylamine | CN | CH5N
product | 1-nitro-2-methylamino-2-[2-(3-isoxazolylmethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=NOC=C1)NC | C9H14N4O3S
